US08202891B2
(4-Dimethylaminopiperidin-1-yl)(9H-xanthen-9-yl)methanone
To a stirred solution of 9H-xanthene-9-carboxylic acid (4.4 g, 19.4 mmol) in DCM (200 mL, 3 mol) was added dimethylpiperidin-4-yl-amine (2.5 g, 19.4 mmol). DIPEA (6.8 mL, 38.9 mmol) and HOBt (4.6 g, 34 mmol) were added to the mixture, followed by EDCI (4.5 g, 23.3 mmol). The mixture was stirred for 12 hours, then washed with water (300 mL), NaCl (sat.) (300 mL), dried over MgSO4 and then filtered. The solvent was removed under reduced pressure, and the crude material was purified via silica gel chromatography (10% MeOH/DCM w/1% NH3 (aq)) to yield the title compound (5.9 g).

reactant | 9H-xanthene-9-carboxylic acid | 19.4 mmol, 4.4 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)O | C14H10O3
reactant | DCM | 3 mol, 200 mL | C(Cl)Cl | CH2Cl2
reactant | dimethylpiperidin-4-yl-amine | 19.4 mmol, 2.5 g | CN(C1CCNCC1)C | C7H16N2
reactant | DIPEA | 38.9 mmol, 6.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 34 mmol, 4.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 23.3 mmol, 4.5 g | CCN=C=NCCCN(C)C | C8H17N3
product | (4-Dimethylaminopiperidin-1-yl)(9H-xanthen-9-yl)methanone | 5.9 g | CN(C1CCN(CC1)C(=O)C1C2=CC=CC=C2OC=2C=CC=CC12)C | C21H24N2O2
